US08802697B2
To a solution of 6-(2,6-dichloro-3,5-dimethoxyphenyl)-N-(2-methyl-6-nitrophenyl)pyrido[2,3-d]pyrimidin-2-amine (80 mg, 0.168 mmol) in ethanol (4 mL) and water (4 mL) was added iron powder (75 mg, 1.344 mmol) and ammonium chloride (74 mg, 1.344 mmol). The mixture was stirred at 100° C. for 2 hrs, cooled to RT, filtered and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:petroleum ether=4:1) to afford N1-(6-(2,6-dichloro-3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-2-yl)-6-methylbenzene-1,2-diamine (40 mg, 53%) as a yellow solid. MS (ES+) C22H19Cl2N5O2 requires: 455, 457. found: 456, 458 [M+H]+. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.33 (br. s., 1H), 9.01 (s, 1H), 9.65 (br. s., 1H), 8.23 (s, 1H), 7.05 (s, 1H), 6.93 (br. s., 1H), 6.64-6.63 (m, 1H), 6.50-6.49 (m, 1H), 4.80 (s, 2H), 3.99 (s, 6H), 2.09 (s, 3H).

reactant | 6-(2,6-dichloro-3,5-dimethoxyphenyl)-N-(2-methyl-6-nitrophenyl)pyrido[2,3-d]pyrimidin-2-amine | 0.168 mmol, 80 mg | ClC1=C(C(=C(C=C1OC)OC)Cl)C1=CC2=C(N=C(N=C2)NC2=C(C=CC=C2[N+](=O)[O-])C)N=C1 | C22H17Cl2N5O4
reactant | ammonium chloride | 1.344 mmol, 74 mg | [Cl-].[NH4+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | water | 4 mL | O | H2O
catalyst | iron | 1.344 mmol, 75 mg | [Fe] | Fe
product | N1-(6-(2,6-dichloro-3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-2-yl)-6-methylbenzene-1,2-diamine | 40 mg, 53% | ClC1=C(C(=C(C=C1OC)OC)Cl)C1=CC2=C(N=C(N=C2)NC=2C(=CC=CC2C)N)N=C1 | C22H19Cl2N5O2
